US04699992
14.35 g of 3-dimethylamino-2-(2,4-dichloro-5-fluorobenzoyl)acrylonitrile are refluxed with 3.2 g of cyclopropylamine and 60 ml of toluene. When the evolution of gas is finished after about 30 minutes, the toluene is removed by distillation in vacuo, and the residue is recrystallized from ethanol/light petroleum. 13.8 g of 3-cyclopropylamino-2-(2,4-dichloro-5-fluorobenzoyl)acrylonitrile of melting point 94°-95° C. are obtained.

reactant | 3-dimethylamino-2-(2,4-dichloro-5-fluorobenzoyl)acrylonitrile | 14.35 g | CN(C=C(C#N)C(C1=C(C=C(C(=C1)F)Cl)Cl)=O)C | C12H9Cl2FN2O
reactant | cyclopropylamine | 3.2 g | C1(CC1)N | C3H7N
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 3-cyclopropylamino-2-(2,4-dichloro-5-fluorobenzoyl)acrylonitrile | 13.8 g | C1(CC1)NC=C(C#N)C(C1=C(C=C(C(=C1)F)Cl)Cl)=O | C13H9Cl2FN2O
